US09029371B2
To a solution of methanesulfonic acid 4-(2-bromo-acetyl)-3-trifluoromethyl-phenyl ester (33.95 g; 89.3 mmol) in 1,4-dioxane (150 mL) was added dropwise a solution of NaBH4 (2.37 g; 62.5 mmol) in water (47 mL). The resulting mixture was stirred at RT for 2.5 hours, subsequently, quenched with 0.5M aqueous HCl (125 mL), and extracted with EtOAc. The combined organic layers were washed with water, dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in Et2O (500 mL) and treated with a solution of KOH (4.19 g; 74.7 mmol) in water (100 mL). The resulting mixture was heated under reflux for 4 hours. After cooling to RT, the volatiles were removed in vacuo and the residue was partitioned between EtOAc and water. The organic layer was washed with water, dried (MgSO4), filtered and concentrated in vacuo. The residue was purified by column chromatography (CH2Cl2) to afford methanesulfonic acid 4-oxiranyl-3-trifluoromethyl-phenyl ester (23.54 g).

reactant | methanesulfonic acid 4-(2-bromo-acetyl)-3-trifluoromethyl-phenyl ester | 89.3 mmol, 33.95 g | BrCC(=O)C1=C(C=C(C=C1)OS(=O)(=O)C)C(F)(F)F | C10H8BrF3O4S
reactant | NaBH4 | 62.5 mmol, 2.37 g | [BH4-].[Na+]
reactant | KOH | 74.7 mmol, 4.19 g | [OH-].[K+]
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
solvent | water | 47 mL | O | H2O
solvent | water | 100 mL | O | H2O
product | methanesulfonic acid 4-oxiranyl-3-trifluoromethyl-phenyl ester | 23.54 g | O1C(C1)C1=C(C=C(C=C1)OS(=O)(=O)C)C(F)(F)F | C10H9F3O4S
